US08686028B2
Compound 4-methyl-6a,11a-dihydro-6H-benzo[4,5]furo[3,2-c]chromen-3-ol (100 mg, 0.34 mmol) was dissolved in DMF (5 ml) and NaH (8.1 mg, 0.34 mmol) was added to the solution at room temperature, followed by allyl bromide (0.06 ml, 0.68 mmol). The reaction mixture was stirred at room temperature to 6 hours and poured into iced water and neutralized with 10% HCl to get the white precipitate. Precipitate were washed with water and purified by silica gel column chromatography using hexane-chloroform as the eluent to give 3-isopropoxy-6a,11a-dihydro-6H-benzofuro[3,2-c]chromene (58 mg, 50%) as white solid.

reactant | 4-methyl-6a,11a-dihydro-6H-benzo[4,5]furo[3,2-c]chromen-3-ol | 0.34 mmol, 100 mg | CC=1C(=CC=C2C3C(COC12)C1=C(O3)C=CC=C1)O | C16H14O3
reactant | NaH | 0.34 mmol, 8.1 mg | [H-].[Na+]
reactant | allyl bromide | 0.68 mmol, 0.06 ml | C(C=C)Br | C3H5Br
reactant | HCl | Cl | ClH
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 3-isopropoxy-6a,11a-dihydro-6H-benzofuro[3,2-c]chromene | 58 mg, 50% | C(C)(C)OC1=CC=C2C3C(COC2=C1)C1=C(O3)C=CC=C1 | C18H18O3
